US07244747B2
In a 500 ml pressure jar, under inert atmosphere, 6.29 g (14 mmol) of 3-[6-bromo-2,4-difluoro-3-(pyrrolidin-1-ylazo)-phenyl]-4-nitro-butyric acid ethyl ester all and Et3N (5.9 ml) are dissolved in 120 ml of ethanol. A suspension of 6 g of predried (3 times, ethanol) Raney nickel is added and the mixture hydrogenated on a Parr hydrogenator at a maximum of 20 psi H2 pressure (strongly exothermically reaction, ice/water cooling required). The mixture is degassed, filtered on a Celite/Norite pad, and the filtrate concentrated in vacuo, to give 6.2 g of crude. It is again hydrogenated as described above to remove the bromide using 0.59 g of Pd/C instead of Raney nickel during 0.75 h on a Parr hydrogenator at a maximum of 40 psi H2 pressure. The crude amino-ester is purified by chromatography on silicagel (CH2Cl2/EtOH/NH4OH: 94.5/5/0.5 (v/v/v)) to give 3.6 g of 4-amino-3-[2,4-difluoro-3-(pyrrolidin-1-ylazo)-phenyl]-butyric acid ethyl ester a12 (76% yield) used as such in the next step.

reactant | 3-[6-bromo-2,4-difluoro-3-(pyrrolidin-1-ylazo)-phenyl]-4-nitro-butyric acid ethyl ester | 14 mmol, 6.29 g | C(C)OC(CC(C[N+](=O)[O-])C1=C(C(=C(C=C1Br)F)N=NN1CCCC1)F)=O | C16H19BrF2N4O4
solvent | Et3N | 5.9 ml | CCN(CC)CC | C6H15N
solvent | ethanol | 120 ml | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
product | 4-amino-3-[2,4-difluoro-3-(pyrrolidin-1-ylazo)-phenyl]-butyric acid ethyl ester | 3.6 g, 76% yield | C(C)OC(CC(CN)C1=C(C(=C(C=C1)F)N=NN1CCCC1)F)=O | C16H22F2N4O2
